### PR TITLE
chore: adaptations for nightly-2024-02-26

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Archive/Examples/IfNormalization/Result.lean [hunk 1]
```diff
@@ -92,11 +92,28 @@ def normalize (l : AList (fun _ : ℕ => Bool)) :
...
           have := ht₃ v
           have := he₃ v
-          ◾
+          simp_all -- used to be done here v4.7.0-rc1 issues
+          intro _
+          constructor <;> intro h <;> apply Option.some_ne_none _ <;>
+            rw [← AList.lookup_insert l]
+          · exact ht₃ _ h
+          · exact he₃ _ h
+          -- ◾-- aesop times out now
```
Comment (semorrison) [inline Archive/Examples/IfNormalization/Result.lean:101]: @mattrobball let's try to carefully mark any regressions we make in fixes, e.g. with `FIXME nightly-testing`. We need to fix these properly before we can merge into `bump/v4.7.0` (and thence master), so it's important that incomplete patches are clearly marked as such.

The whole point of this file is to show off `aesop`, so writing out the proof is not necessarily better than a sorry.

Comment (mattrobball) [reply Archive/Examples/IfNormalization/Result.lean:101]: Yes, that is why it is marked with `v4.7.0-rc1` and why I mentioned this tag on Zulip.

Comment (semorrison) [reply Archive/Examples/IfNormalization/Result.lean:101]: Ah, missed the messsage about v4.7.0-rc1, thanks.

File: Mathlib/Algebra/ContinuedFractions/Computation/CorrectnessTerminating.lean [hunk 2]
```diff
@@ -104,7 +104,7 @@ corresponds exactly to the one using the recurrence equation in `compExactValue`
 theorem compExactValue_correctness_of_stream_eq_some :
     ∀ {ifp_n : IntFractPair K}, IntFractPair.stream v n = some ifp_n →
       v = compExactValue ((of v).continuantsAux n) ((of v).continuantsAux <| n + 1) ifp_n.fr := by
-  set g := of v with g_eq
+  let __g := of v
```
Comment (semorrison) [inline Mathlib/Algebra/ContinuedFractions/Computation/CorrectnessTerminating.lean:107]: We need to revert this, and use `simp` instead.

File: Mathlib/Algebra/Homology/ShortComplex/Homology.lean [hunk 3]
```diff
@@ -619,8 +619,9 @@ lemma leftRightHomologyComparison_eq [S.HasLeftHomology] [S.HasRightHomology]
 @[simp]
 lemma HomologyData.leftRightHomologyComparison'_eq (h : S.HomologyData) :
     leftRightHomologyComparison' h.left h.right = h.iso.hom := by
-  simp only [← cancel_epi h.left.π, ← cancel_mono h.right.ι,
-    π_leftRightHomologyComparison'_ι, HomologyData.comm]
+  simp only [← cancel_epi h.left.π, ← cancel_mono h.right.ι, assoc,
+    π_leftRightHomologyComparison'_ι, comm]
+  -- v.4.7.0-rc1 issues
```
Comment (semorrison) [inline Mathlib/Algebra/Homology/ShortComplex/Homology.lean:624]:
```suggestion
```

File: Mathlib/Algebra/Order/Group/Abs.lean [hunk 4]
```diff
@@ -254,7 +254,8 @@ variable [Group α] [LinearOrder α] {a b : α}
 @[to_additive] lemma mabs_eq_mabs : |a|ₘ = |b|ₘ ↔ a = b ∨ a = b⁻¹ := by
   refine' ⟨fun h ↦ ?_, by rintro (h | h) <;> simp [h, abs_neg]⟩
   obtain rfl | rfl := eq_or_eq_inv_of_mabs_eq h <;>
-    simpa only [inv_eq_iff_eq_inv (a := |b|ₘ), inv_inj, or_comm] using mabs_choice b
+    simpa only [inv_eq_iff_eq_inv (a := |b|ₘ), inv_inv, inv_inj, or_comm] using mabs_choice b
+  -- v4.7.0-rc1 issues
```
Comment (semorrison) [inline Mathlib/Algebra/Order/Group/Abs.lean:258]: @mattrobball what is the intent of this comment? It looks fine? Did you want to investigate further?

File: Mathlib/Data/Set/Finite.lean [hunk 5]
```diff
@@ -475,7 +475,8 @@ def fintypeOfFintypeImage (s : Set α) {f : α → β} {g} (I : IsPartialInv f g
 #align set.fintype_of_fintype_image Set.fintypeOfFintypeImage
 
 instance fintypeRange [DecidableEq α] (f : ι → α) [Fintype (PLift ι)] : Fintype (range f) :=
-  Fintype.ofFinset (Finset.univ.image <| f ∘ PLift.down) <| by simp [Equiv.plift.exists_congr_left]
+  Fintype.ofFinset (Finset.univ.image <| f ∘ PLift.down) <| by simp
+  -- v4.7.0-rc1 extra argument throws it off (works also with v4.6.0)
```
Comment (semorrison) [inline Mathlib/Data/Set/Finite.lean:479]: @mattrobball, did you want to do something here? Looks fine to me.

File: Mathlib/Data/UnionFind.lean [hunk 6]
```diff
@@ -283,7 +283,9 @@ def link (self : UnionFind α) (x y : Fin self.size)
       hm.2.set (fun i _ ↦ by simp) (fun _ ↦ by simp [nx, hm.rank_eq])
     let rank (i : Fin n) := if y.1 = i ∧ m.rank x = m.rank y then m.rank y + 1 else m.rank i
     have H2 : UFModel.Agrees arr₂ (·.rank) rank := by
-      simp; split <;> (rename_i xy; simp [hm.rank_eq] at xy; simp [xy])
+      simp (config := {zetaDelta := true})
```
Comment (semorrison) [inline Mathlib/Data/UnionFind.lean:286]: Let's add the lets to the simp arguments.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 7]
```diff
@@ -634,29 +634,32 @@ variable {E K} in
...
-  let f := minpoly E x
-  let E' : IntermediateField F E := adjoin F f.frange
-  haveI : FiniteDimensional F E' := finiteDimensional_adjoin fun x _ ↦ IsSeparable.isIntegral F x
-  let g : E'[X] := f.toSubring E'.toSubring (subset_adjoin F _)
-  have h : g.map (algebraMap E' E) = f := f.map_toSubring E'.toSubring (subset_adjoin F _)
-  clear_value g
-  have hx : x ∈ restrictScalars F E'⟮x⟯ := mem_adjoin_simple_self _ x
-  have hzero : aeval x g = 0 := by
+  let __f := minpoly E x -- v4.7.0-rc1 issues
+  let __E' : IntermediateField F E := adjoin F __f.frange
```
Comment (semorrison) [inline Mathlib/FieldTheory/SeparableDegree.lean:638]: Could someone please redo this?

File: Mathlib/LinearAlgebra/FreeModule/Norm.lean [hunk 8]
```diff
@@ -29,20 +29,20 @@ free as an `R`-module, the norm of `f` relative to `R` is associated to the prod
 coefficients of the ideal generated by `f`. -/
 theorem associated_norm_prod_smith [Fintype ι] (b : Basis ι R S) {f : S} (hf : f ≠ 0) :
     Associated (Algebra.norm R f) (∏ i, smithCoeffs b _ (span_singleton_eq_bot.not.2 hf) i) := by
-  have hI := span_singleton_eq_bot.not.2 hf
-  let b' := ringBasis b (span {f}) hI
+  have hI := span_singleton_eq_bot.not.2 hf -- v4.7.0-rc1 issues
+  let __b' := ringBasis b (span {f}) hI
```
Comment (semorrison) [inline Mathlib/LinearAlgebra/FreeModule/Norm.lean:33]: Still needs reverting.

File: Mathlib/Order/Booleanisation.lean [hunk 9]
```diff
@@ -227,7 +227,8 @@ instance instDistribLattice : DistribLattice (Booleanisation α) where
   le_sup_inf x y z := match x, y, z with
     | lift a, lift b, lift c => LE.lift le_sup_inf
     | lift a, lift b, comp c => LE.lift <| by simp [sup_left_comm, sup_comm]
-    | lift a, comp b, lift c => LE.lift <| by simp [sup_left_comm, sup_comm (a := b \ a)]
+    | lift a, comp b, lift c => LE.lift <| by
+      simp [sup_left_comm (a := b \ a), sup_comm (a := b \ a)] -- v4.7.0-rc1 issues
```
Comment (semorrison) [inline Mathlib/Order/Booleanisation.lean:231]: @mattrobball, I'm not inclined to investigate further. Could you remove the comment?

(Unless your intention was that these comment survive the merge? In which case I think they need to be a link to a tracking issue; I'd prefer to just drop, however.)

File: Mathlib/RingTheory/Polynomial/ScaleRoots.lean [hunk 10]
```diff
@@ -226,11 +226,19 @@ lemma mul_scaleRoots_of_noZeroDivisors (p q : R[X]) (r : R) [NoZeroDivisors R] :
 lemma add_scaleRoots_of_natDegree_eq (p q : R[X]) (r : R) (h : natDegree p = natDegree q) :
     r ^ (natDegree p - natDegree (p + q)) • (p + q).scaleRoots r =
       p.scaleRoots r + q.scaleRoots r := by
+  -- Was:
+  -- ext n; simp only [coeff_smul, coeff_scaleRoots, coeff_add, smul_eq_mul,
+  --   mul_comm (r ^ _), mul_assoc, ← pow_add, ← h, ← add_mul, add_comm (_ - n)]
+  -- cases lt_or_le (natDegree (p + q)) n with
+  -- | inl hn => simp only [← coeff_add, coeff_eq_zero_of_natDegree_lt hn, zero_mul]
+  -- | inr hn => rw [tsub_add_tsub_cancel (natDegree_add_le_of_degree_le le_rfl h.ge) hn]
```
Comment (semorrison) [inline Mathlib/RingTheory/Polynomial/ScaleRoots.lean:234]: Let's just clean out the comments, the new proof is no worse than the old.

File: Mathlib/SetTheory/Cardinal/Cofinality.lean [hunk 11]
```diff
@@ -1045,7 +1045,8 @@ theorem le_range_of_union_finset_eq_top {α β : Type*} [Infinite β] (f : α 
   let u' : β → range f := fun b => ⟨f (u b).choose, by simp⟩
   have v' : ∀ a, u' ⁻¹' {⟨f a, by simp⟩} ≤ f a := by
     rintro a p m
-    simp? at m says simp only [mem_preimage, mem_singleton_iff, Subtype.mk.injEq] at m
+    -- https://github.com/leanprover/lean4/issues/3501
+    simp only [u', mem_preimage, mem_singleton_iff, Subtype.mk.injEq] at m
```
Comment (semorrison) [inline Mathlib/SetTheory/Cardinal/Cofinality.lean:1049]: - I think this is fixed now, can someone verify and clean up?

File: Mathlib/Topology/MetricSpace/Completion.lean [hunk 12]
```diff
@@ -132,9 +132,9 @@ protected theorem mem_uniformity_dist (s : Set (Completion α × Completion α))
       intro a b hab
       have : ((a, b), (a, a)) ∈ t1 ×ˢ t2 := ⟨hab, refl_mem_uniformity ht2⟩
       have I := ht this
-      simp? [Completion.dist_self, Real.dist_eq, Completion.dist_comm] at I says
-        simp only [Real.dist_eq, preimage_setOf_eq, mem_setOf_eq, Completion.dist_self,
-          Completion.dist_comm, zero_sub, abs_neg] at I
+      -- https://github.com/leanprover/lean4/issues/3501
```
Comment (semorrison) [inline Mathlib/Topology/MetricSpace/Completion.lean:135]: Again, I think this is fixed now. Verify and cleanup?

File: test/meta.lean [hunk 13]
```diff
@@ -119,32 +117,4 @@ Lean.Expr.app (Lean.Expr.const `Nat.succ []) (Lean.Expr.const `Nat.zero []))
 -/
 #guard_msgs in #eval do Expr.relSidesIfRefl? (← mkRel ``LE.le eNatZero eNatOne)
 
-/-! ### `Lean.Expr.relSidesIfSymm?` -/
```
Comment (semorrison) [inline test/meta.lean:122]: This was an unused meta function which has been deleted.

File: Mathlib/Algebra/Order/Group/Abs.lean (hunk 4 above)
Comment (mattrobball) [reply Mathlib/Algebra/Order/Group/Abs.lean:258]: I annotated anything slightly off to make sure it would get a second look. Feel free to remove any if you are satisfied with the diff.

File: Archive/Examples/IfNormalization/WithoutAesop.lean [hunk 14]
```diff
@@ -93,14 +93,22 @@ def normalize' (l : AList (fun _ : ℕ => Bool)) :
...
+              Bool.or_self, hasConstantIf, and_self, hasRedundantIf, Bool.or_false,
+              beq_eq_false_iff_ne, not_false_eq_true, disjoint, List.disjoint, decide_not,
+              Bool.and_true, Bool.and_eq_true, Bool.not_eq_true', decide_eq_false_iff_not, true_and]
+            constructor
+            · intro h
+              specialize ht₃ _ h
+              simp at ht₃
+            · intro h
+              specialize he₃ _ h
+              simp at he₃
```
Comment (semorrison) [inline Archive/Examples/IfNormalization/WithoutAesop.lean:111]: This is not great, but at least the aesop showcase in Result.lean has no regression now.

I'm content with this to go in as is, but if anyone feels like polishing of course go ahead.

File: Mathlib/Algebra/Free.lean [hunk 15]
```diff
@@ -526,8 +534,9 @@ def lift : (α → β) ≃ (FreeSemigroup α →ₙ* β) where
   toFun f :=
     { toFun := fun x ↦ x.2.foldl (fun a b ↦ a * f b) (f x.1)
       map_mul' := fun x y ↦ by
-        simp only [head_mul, tail_mul, ← List.foldl_map f, List.foldl_append, List.foldl_cons,
+        simp [head_mul, tail_mul, ← List.foldl_map, List.foldl_append, List.foldl_cons,
           List.foldl_assoc] }
+        -- v4.7.0 issues
```
Comment (semorrison) [inline Mathlib/Algebra/Free.lean:539]:
```suggestion
```

File: Mathlib/Algebra/Order/Group/Abs.lean (hunk 4 above)
Comment (semorrison) [inline Mathlib/Algebra/Order/Group/Abs.lean:258]:
```suggestion
```

File: Mathlib/Data/Set/Finite.lean (hunk 5 above)
Comment (semorrison) [inline Mathlib/Data/Set/Finite.lean:479]:
```suggestion
```

File: Mathlib/Data/UnionFind.lean (hunk 6 above)
Comment (semorrison) [reply Mathlib/Data/UnionFind.lean]: Fixed.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 16]
```diff
@@ -454,7 +453,9 @@ variable (s) in
 def reindex (e : ι ≃ ι₂) : (⨂[R] i : ι, s i) ≃ₗ[R] ⨂[R] i : ι₂, s (e.symm i) :=
   let f := domDomCongrLinearEquiv' R R s (⨂[R] (i : ι₂), s (e.symm i)) e
   let g := domDomCongrLinearEquiv' R R s (⨂[R] (i : ι), s i) e
-  LinearEquiv.ofLinear (lift <| f.symm <| tprod R) (lift <| g <| tprod R) (by aesop) (by aesop)
+  LinearEquiv.ofLinear (lift <| f.symm <| tprod R) (lift <| g <| tprod R)
+    (by aesop (add norm simp [f, g]))
+    (by aesop (add norm simp [f, g]))
```
Comment (semorrison) [inline Mathlib/LinearAlgebra/PiTensorProduct.lean:458]:
```suggestion
    -- Adaptation note: v4.7.0-rc1
    -- An alternative here would be `aesop (simp_config := {zetaDelta := true})`
    -- or a wrapper macro to that effect.
    (by aesop (add norm simp [f, g]))
    (by aesop (add norm simp [f, g]))
```

File: Mathlib/Order/Booleanisation.lean (hunk 9 above)
Comment (semorrison) [inline Mathlib/Order/Booleanisation.lean:231]:
```suggestion
      simp [sup_left_comm (a := b \ a), sup_comm (a := b \ a)]
```

File: Mathlib/Order/Closure.lean [hunk 17]
```diff
@@ -73,7 +73,9 @@ namespace ClosureOperator
 
 instance [Preorder α] : FunLike (ClosureOperator α) α α where
   coe c := c.1
-  coe_injective' := by rintro ⟨⟩ ⟨⟩ h; obtain rfl := DFunLike.ext' h; congr with x; simp [*]
+  coe_injective' := by
+    rintro ⟨⟩ ⟨⟩ h; obtain rfl := DFunLike.ext' h; congr with x; simp_all
+    -- v4.7.0-rc1 issues
```
Comment (semorrison) [inline Mathlib/Order/Closure.lean:78]:
```suggestion
  coe_injective' := by rintro ⟨⟩ ⟨⟩ h; obtain rfl := DFunLike.ext' h; congr with x; simp_all
```

File: Mathlib/RingTheory/Polynomial/ScaleRoots.lean (hunk 10 above)
Comment (semorrison) [inline Mathlib/RingTheory/Polynomial/ScaleRoots.lean:234]:
```suggestion
```

File: test/FBinop.lean [hunk 18]
```diff
@@ -52,6 +52,22 @@ example (s : Finset α) (t : Finset (α × ℕ)) : s ×ˢ' {1, 2, 3} = t := test
 example (s : Finset α) (t : Finset (ℕ × α)) : {1, 2, 3} ×ˢ' s = t := test_sorry
 example (s : Finset α) (_t : Finset (ℕ × α)) : ({1, 2, 3} ×ˢ' s).card = 22 := test_sorry
 
+-- FIXME nightly-testing
+-- The following app_unexpanders have been lost in the shuffle.
+-- Copy pasted here to mitigate the test, and Scott is following up.
```
Comment (semorrison) [inline test/FBinop.lean:57]:
```suggestion
-- FIXME nightly-testing
-- The following app_unexpanders have been lost in the shuffle.
-- Copy pasted here to mitigate the test.
-- This will be fixed on nightly-2024-02-28
```

File: Mathlib/SetTheory/Cardinal/Cofinality.lean (hunk 11 above)
Comment (semorrison) [reply Mathlib/SetTheory/Cardinal/Cofinality.lean:1049]: Nope, will need 2024-02-28. I've added context to the comment.

File: Mathlib/Topology/MetricSpace/Completion.lean (hunk 12 above)
Comment (semorrison) [reply Mathlib/Topology/MetricSpace/Completion.lean]: Fixed.

File: Mathlib/Algebra/Homology/Augment.lean [hunk 19]
```diff
@@ -61,7 +61,10 @@ def augment (C : ChainComplex V ℕ) {X : V} (f : C.X 0 ⟶ X) (w : C.d 1 0 ≫
     | 1, 0, h => absurd rfl h
     | i + 2, 0, _ => rfl
     | 0, _, _ => rfl
-    | i + 1, j + 1, h => by simp only; exact C.shape i j (Nat.succ_ne_succ.1 h)
+    | i + 1, j + 1, h => by
+      -- FIXME nightly-testing: failure, will require Lean patch.
+      sorry
```
Comment (semorrison) [inline Mathlib/Algebra/Homology/Augment.lean:66]:
```suggestion
      -- FIXME nightly-testing: failure, will require Lean patch.
      -- Will be fixed on nightly-2024-02-28.
      sorry
```

File: Mathlib/Algebra/Homology/Augment.lean [hunk 20]
```diff
@@ -61,7 +61,11 @@ def augment (C : ChainComplex V ℕ) {X : V} (f : C.X 0 ⟶ X) (w : C.d 1 0 ≫
     | 1, 0, h => absurd rfl h
     | i + 2, 0, _ => rfl
     | 0, _, _ => rfl
-    | i + 1, j + 1, h => by simp only; exact C.shape i j (Nat.succ_ne_succ.1 h)
+    | i + 1, j + 1, h => by
+      -- FIXME nightly-testing: failure, will require Lean patch.
+      -- Will be fixed on nightly-2024-02-28.
```
Comment (semorrison) [inline Mathlib/Algebra/Homology/Augment.lean:66]: But we are going to merge to `bump/v4.7.0` as is in the meantime!

File: Mathlib/Algebra/Order/Ring/Defs.lean [hunk 21]
```diff
@@ -813,11 +813,9 @@ def StrictOrderedRing.toOrderedRing' [@DecidableRel α (· ≤ ·)] : OrderedRin
 #align strict_ordered_ring.to_ordered_ring' StrictOrderedRing.toOrderedRing'
 
 -- see Note [lower instance priority]
-instance (priority := 100) StrictOrderedRing.toOrderedRing : OrderedRing α :=
-  { ‹StrictOrderedRing α› with
-    mul_nonneg := fun a b =>
-      letI := @StrictOrderedRing.toOrderedRing' α _ (Classical.decRel _)
-      mul_nonneg }
+instance (priority := 100) StrictOrderedRing.toOrderedRing : OrderedRing α where
```
Comment (mattrobball) [inline Mathlib/Algebra/Order/Ring/Defs.lean:816]: Did anything leak into an autoparam here?

File: Mathlib/CategoryTheory/Category/Basic.lean [hunk 22]
```diff
@@ -117,16 +117,17 @@ use in auto-params.
 macro (name := aesop_cat) "aesop_cat" c:Aesop.tactic_clause* : tactic =>
 `(tactic|
   aesop $c* (config := { introsTransparency? := some .default, terminal := true })
-            (simp_config := { decide := true })
-  (rule_sets := [$(Lean.mkIdent `CategoryTheory):ident]))
+            (simp_config := { decide := true, zetaDelta := true })
```
Comment (mattrobball) [inline Mathlib/CategoryTheory/Category/Basic.lean:120]: Should this be documented?

File: Mathlib/CategoryTheory/GradedObject/Trifunctor.lean [hunk 23]
```diff
@@ -310,10 +310,10 @@ noncomputable def isColimitCofan₃MapBifunctor₁₂BifunctorMapObj (j : J) :
   let Z := (((mapTrifunctor (bifunctorComp₁₂ F₁₂ G) I₁ I₂ I₃).obj X₁).obj X₂).obj X₃
   let p' : I₁ × I₂ × I₃ → ρ₁₂.I₁₂ × I₃ := fun ⟨i₁, i₂, i₃⟩ => ⟨ρ₁₂.p ⟨i₁, i₂⟩, i₃⟩
   let e : ∀ (i₁₂ : ρ₁₂.I₁₂) (i₃ : I₃), p' ⁻¹' {(i₁₂, i₃)} ≃ ρ₁₂.p ⁻¹' {i₁₂} := fun i₁₂ i₃ =>
-    { toFun := fun ⟨⟨i₁, i₂, i₃'⟩, hi⟩ => ⟨⟨i₁, i₂⟩, by aesop⟩
```
Comment (mattrobball) [inline Mathlib/CategoryTheory/GradedObject/Trifunctor.lean:313]: Are we planning to switch back to `aesop` in the future?

File: Mathlib/Data/Erased.lean [hunk 24]
```diff
@@ -154,9 +154,8 @@ theorem map_def {α β} : ((· <$> ·) : (α → β) → Erased α → Erased β
 #align erased.map_def Erased.map_def
 
 --Porting note: Old proof `by refine' { .. } <;> intros <;> ext <;> simp`
-protected instance LawfulMonad : LawfulMonad Erased :=
-  { Erased.Monad with
-    id_map := by intros; ext; simp
+protected instance instLawfulMonad : LawfulMonad Erased :=
```
Comment (mattrobball) [inline Mathlib/Data/Erased.lean:157]: Is it clear these are defeq?

File: Mathlib/Data/Fintype/Order.lean [hunk 25]
```diff
@@ -129,20 +129,9 @@ noncomputable def toCompleteLinearOrder [LinearOrder α] [BoundedOrder α] : Com
...
-      convert (Finset.inf_sup_distrib_left s.toFinset id a).ge using 1
-      rw [Finset.inf_eq_iInf]
-      simp_rw [Set.mem_toFinset]
-      rfl
-    inf_sSup_le_iSup_inf := fun a s => by
-      convert (Finset.sup_inf_distrib_left s.toFinset id a).le using 1
-      rw [Finset.sup_eq_iSup]
-      simp_rw [Set.mem_toFinset]
-      rfl }
+noncomputable def toCompleteBooleanAlgebra [BooleanAlgebra α] : CompleteBooleanAlgebra α where
```
Comment (mattrobball) [inline Mathlib/Data/Fintype/Order.lean:132]: Why did the proof obligation disappear?

File: Mathlib/RingTheory/Polynomial/ScaleRoots.lean [hunk 26]
```diff
@@ -227,10 +227,12 @@ lemma add_scaleRoots_of_natDegree_eq (p q : R[X]) (r : R) (h : natDegree p = nat
     r ^ (natDegree p - natDegree (p + q)) • (p + q).scaleRoots r =
       p.scaleRoots r + q.scaleRoots r := by
   ext n; simp only [coeff_smul, coeff_scaleRoots, coeff_add, smul_eq_mul,
-    mul_comm (r ^ _), mul_assoc, ← pow_add, ← h, ← add_mul, add_comm (_ - n)]
+    mul_comm (r ^ _), ← pow_add, ← h, ← add_mul, add_comm (_ - n)]
+  rw [mul_assoc, ← pow_add]
```
Comment (mattrobball) [inline Mathlib/RingTheory/Polynomial/ScaleRoots.lean:231]: Why do these not fire in simp now?

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean [hunk 27]
```diff
@@ -318,8 +318,9 @@ instance (priority := 10) CommGroupWithZero.toCancelCommMonoidWithZero :
 #align comm_group_with_zero.to_cancel_comm_monoid_with_zero CommGroupWithZero.toCancelCommMonoidWithZero
 
 -- See note [lower instance priority]
-instance (priority := 100) CommGroupWithZero.toDivisionCommMonoid : DivisionCommMonoid G₀ :=
-  { ‹CommGroupWithZero G₀›, GroupWithZero.toDivisionMonoid with }
+instance (priority := 100) CommGroupWithZero.toDivisionCommMonoid [i : CommGroupWithZero G₀] :
```
[the remark this answers is not in the document]
Comment (kmill) [reply Mathlib/Algebra/GroupWithZero/Units/Basic.lean]: That one is already fixed in cfe5e45

File: Mathlib/Data/Erased.lean (hunk 24 above)
Comment (kmill) [reply Mathlib/Data/Erased.lean:157]: Yes -- `LawfulMonad` doesn't take any fields from `Erased.Monad` at all.

File: Mathlib/Data/Fintype/Order.lean (hunk 25 above)
Comment (kmill) [reply Mathlib/Data/Fintype/Order.lean:132]: It was an exact copy of the proofs in `toCompleteDistribLattice`. This fix addresses the porting note.

File: Mathlib/Algebra/Order/Ring/Defs.lean (hunk 21 above)
Comment (mattrobball) [reply Mathlib/Algebra/Order/Ring/Defs.lean:816]: No this is just for the proof.

File: Mathlib/Data/Erased.lean (hunk 24 above)
Comment (mattrobball) [reply Mathlib/Data/Erased.lean:157]: I should have read below the fold.

File: Mathlib/Algebra/ContinuedFractions/Computation/CorrectnessTerminating.lean [hunk 28]
```diff
@@ -172,43 +172,44 @@ theorem compExactValue_correctness_of_stream_eq_some :
...
         compExactValue_correctness_of_stream_eq_some_aux_comp pB ppB ifp_succ_n_fr_ne_zero
-      set f := Int.fract (1 / ifp_n.fr) with f_eq
-      have f_ne_zero : f ≠ 0 := by simpa using ifp_succ_n_fr_ne_zero
+      let f := Int.fract (1 / ifp_n.fr)
+      have f_ne_zero : f ≠ 0 := by simpa [f] using ifp_succ_n_fr_ne_zero
       rw [inv_eq_one_div] at tmp_calc tmp_calc'
       -- Porting note: the `tmp_calc`s need to be massaged, and some processing after `ac_rfl` done,
       -- because `field_simp` is not as powerful
-      have hA : (↑⌊1 / ifp_n.fr⌋ * pA + ppA) + pA * f = pA * (1 / ifp_n.fr) + ppA := by
+      have hA : (↑⌊1 / ifp_n.fr⌋ * pA + ppA) + pA * f =
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/ContinuedFractions/Computation/CorrectnessTerminating.lean:196]: I added these to nightly-testing

File: Mathlib/CategoryTheory/GradedObject/Trifunctor.lean (hunk 23 above)
Comment (semorrison) [reply Mathlib/CategoryTheory/GradedObject/Trifunctor.lean:313]: Why would we? This is in the category theory library, so I would have expected it to be `aesop_cat` all along.

File: Mathlib/RingTheory/Polynomial/ScaleRoots.lean (hunk 26 above)
Comment (semorrison) [reply Mathlib/RingTheory/Polynomial/ScaleRoots.lean:234]: They do fire, but `mul_assoc` induces a max rec depth error.

I've added an "adaptation note" explaining this, but am inclined to ship.

**Review by mattrobball — APPROVED** [review]
Good with me

**Review by kmill — APPROVED** [review]
